US07875633B2
(1) Production of 4-[(4-fluorobenzyl)oxy]-1-{4-[(1E)-3-hydroxy-1-propen-1-yl]phenyl}pyridin-2(1H)-one
A mixture of 4-[(4-fluorobenzyl)oxy]pyridin-2(1H)-one (1.10 g, 5.0 mmol), (2E)-3-(4-bromophenyl)-2-propen-1-ol (1.28 g, 6 mmol), cuprous iodide (476 mg, 3 mmol), potassium carbonate (829 mg, 6 mmol) and DMF (20 mL) was stirred overnight at 155° C. The reaction liquid was cooled to room temperature, then poured into ammonia water, and ethyl acetate was added for extraction. The organic layer was washed with water and saturated saline, and dried with anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure, followed by purification by flash column chromatography (KP-Sil, hexane:ethyl acetate=1:1 to 0:1) to obtain the entitled compound (881 mg).

reactant | 4-[(4-fluorobenzyl)oxy]pyridin-2(1H)-one | 5.0 mmol, 1.10 g | FC1=CC=C(COC2=CC(NC=C2)=O)C=C1 | C12H10FNO2
reactant | (2E)-3-(4-bromophenyl)-2-propen-1-ol | 6 mmol, 1.28 g | BrC1=CC=C(C=C1)/C=C/CO | C9H9BrO
reactant | potassium carbonate | 6 mmol, 829 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonia water | O.N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-[(4-fluorobenzyl)oxy]-1-{4-[(1E)-3-hydroxy-1-propen-1-yl]phenyl}pyridin-2(1H)-one | 881 mg | FC1=CC=C(COC2=CC(N(C=C2)C2=CC=C(C=C2)\C=C\CO)=O)C=C1 | C21H18FNO3
